US09260436B2
A mixture of 1.91 g of 3-bromo-1,1,1-trifluoropropan-2-one and 10 ml of DME was added to a mixture of 1.87 g of 2-amino-5-bromo-6-methylpyridine and 10 ml of DME, and the mixture was stirred at room temperature for 3 hours. The precipitated solid was taken by filtration, washed with 10 ml of DME, and dried to obtain 3.39 g of 6-bromo-5-methyl-2-trifluoromethyl-2,3-dihydroimidazo[1,2-a]pyridin-2-ol hydrobromide.

reactant | 3-bromo-1,1,1-trifluoropropan-2-one | 1.91 g | BrCC(C(F)(F)F)=O | C3H2BrF3O
reactant | 2-amino-5-bromo-6-methylpyridine | 1.87 g | NC1=NC(=C(C=C1)Br)C | C6H7BrN2
solvent | DME | 10 ml | COCCOC | C4H10O2
solvent | DME | 10 ml | COCCOC | C4H10O2
product | 6-bromo-5-methyl-2-trifluoromethyl-2,3-dihydroimidazo[1,2-a]pyridin-2-ol hydrobromide | 3.39 g | Br.BrC=1C=CC=2N(C1C)CC(N2)(O)C(F)(F)F | InChI=1S/C9H8BrF3N2O.BrH/c1-5-6(10)2-3-7-14-8(16,4-15(5)7)9(11,12)13;/h2-3,16H,4H2,1H3;1H
